US09210927B2
Preparation of (E)-2-(3-Amino-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzonitrile (DC41)
To a stirred solution of (E)-2-(3-nitro-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzonitrile (0.6 g, 1.2 mmol) in MeOH (10 mL), were added Zn dust (0.39 g, 5.98 mmol) and sat. aq NH4Cl solution (5 mL) and the resultant reaction mixture was stirred at ambient temperature for 2 h. After completion of the reaction (TLC), the reaction mass was concentrated under reduced pressure. The reaction mass was diluted with CH2Cl2, filtered through a celite bed, and the obtained filtrate concentrated under reduced pressure to afford the title compound as a solid (0.5 g, 89%): mp 72-75° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.72 (s, 1H), 8.26 (s, 1H), 8.01 (d, J=8.4 Hz, 1H), 7.91 (s, 2H), 7.77 (d, J=8.4 Hz, 1H), 6.42 (dd, J=15.6, 9.2 Hz, 1H), 6.83 (d, J=15.6 Hz, 1H), 5.87 (s, 2H), 4.89 (m, 1H); ESIMS m/z 469.95 ([M−H]−).

reactant | (E)-2-(3-nitro-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzonitrile | 1.2 mmol, 0.6 g | [N+](=O)([O-])C1=NN(C=N1)C1=C(C#N)C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C19H9Cl3F3N5O2
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Zn | 5.98 mmol, 0.39 g | [Zn] | Zn
product | (E)-2-(3-Amino-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzonitrile | 0.5 g, 89% | NC1=NN(C=N1)C1=C(C#N)C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C19H11Cl3F3N5
